US07745438B2
5-(R)-[2-(S)-Amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester
Dissolve 5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester (187.7 mg, 0.263 mmol) in methanol (10 mL). Add 20% palladium hydroxide on carbon 100 mg) and hydrogenate at one atmosphere hydrogen gas for 18 hours. Add more 20% palladium hydroxide on carbon (100 mg) and further hydrogenate at one atmosphere hydrogen gas for 5 hours. Filter and concentrate to give the desired compound (107.8 mg, 93%).

reactant | 5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.263 mmol, 187.7 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CCC(C)C | C44H54F2N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 100 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 100 mg | [OH-].[OH-].[Pd+2]
product | 5-(R)-[2-(S)-Amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester | 107.8 mg, 93% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)CCC(C)C | C23H36F2N2O4
